US07125983B2
Thionyl chloride (10.6 g, 89.1 mmol) was dropwise added to ethyl α-hydroxymethylacrylate (10 g, 76.8 mmol) with ice-cooling; stirring was conducted for 30 minutes; then, a reaction was allowed to take place at 90° C. for 2 hours. After the completion of the reaction, low-boiling compounds were removed under reduced pressure to obtain unpurified ethyl α-chloromethylacrylate (11.8 g). Then, L-arabinoaminooxazoline (11.8 g, 64.0 mmol) was suspended in dimethylacetamide (80 ml). Thereto was dropwise added the ethyl α-chloromethylacrylate (11.8 g) with ice-cooling. A reaction was allowed to take place at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure to remove the solvent. To the residue was added isopropanol (100 ml), and the resulting mixture was stirred at room temperature for 1 hour. The resulting crystals were collected by filtration, washed with isopropanol (10 ml), and dried under reduced pressure to obtain a title compound (12.5 g g, 60.5%).

reactant | Thionyl chloride | 89.1 mmol, 10.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl α-hydroxymethylacrylate | 76.8 mmol, 10 g | OCC(C(=O)OCC)=C | C6H10O3
product | ethyl α-chloromethylacrylate | 11.8 g | ClCC(C(=O)OCC)=C | C6H9ClO2
